US05459152
Formic acid (17 g, 378 mmol) and acetic anhydride (13 g, 126 mmol) where combined at 10° C. A slurry of 2-(3-pyridinyl)-5,5-dimethyl-4-thiazolidinecarboxylic acid (10 g, 42 mmol), Prepared as in step 1, in THF (250 mL) was added over five minutes. The resulting clear-yellow solution was wanted slowly to ambient temperature and stirred for 17 hours, during which time it became a white suspension. The THF was removed in vacuo, and the resulting slurry was filtered to yield a white solid. The solid was rinsed with ether to give 2-(3-pyridinyl)-3-formyl-5,5-dimethyl-4-thiazolidinecarboxylic acid (10 g) which was used without further purification.

reactant | Formic acid | 378 mmol, 17 g | C(=O)O | CH2O2
reactant | acetic anhydride | 126 mmol, 13 g | C(C)(=O)OC(C)=O | C4H6O3
reactant | 2-(3-pyridinyl)-5,5-dimethyl-4-thiazolidinecarboxylic acid | 42 mmol, 10 g | N1=CC(=CC=C1)C1SC(C(N1)C(=O)O)(C)C | C11H14N2O2S
solvent | THF | 250 mL | C1CCOC1 | C4H8O
product | 2-(3-pyridinyl)-3-formyl-5,5-dimethyl-4-thiazolidinecarboxylic acid | 10 g | N1=CC(=CC=C1)C1SC(C(N1C=O)C(=O)O)(C)C | C12H14N2O3S
